US07429605B2
A solution of 535 mg (1.76 mmol) 5-(4-Trifluoromethoxy-phenyl)-nicotinic acid methyl ester in 16 ml Ethanol was treated at room temperature (r. t.) with 67 mg (1.76 mmol) of sodium borohydride. The mixture was stirred for 4 h. at r. t., then two days at 80° C. The mixture was poured on ice and extracted tree times with ethyl acetate. The combined organic phases were washed with water, dried (sodium sulphate) and evaporated. Chromatography on silica (eluent: ethyl acetate/methanol 5:1) gave 159 mg (33%) of [5-(4-Trifluoromethoxy-phenyl)-pyridin-3-yl]-methanol.

reactant | 5-(4-Trifluoromethoxy-phenyl)-nicotinic acid methyl ester | 1.76 mmol, 535 mg | COC(C1=CN=CC(=C1)C1=CC=C(C=C1)OC(F)(F)F)=O | C14H10F3NO3
reactant | sodium borohydride | 1.76 mmol, 67 mg | [BH4-].[Na+]
solvent | Ethanol | 16 ml | C(C)O | C2H6O
product | [5-(4-Trifluoromethoxy-phenyl)-pyridin-3-yl]-methanol | 159 mg, 33% | FC(OC1=CC=C(C=C1)C=1C=C(C=NC1)CO)(F)F | C13H10F3NO2
